US09085576B2
Step 1: 3-Amino-5-chloropicolinamide
To a suspension of 5-chloro-2-cyano-3-nitropyridine (1.274 mL, 10.9 mmol) in water (22 mL) was added 28% aqueous ammonium hydroxide (3.94 mL, 28.3 mmol), and the reaction was stirred at RT for 20 minutes. Sodium hydrosulfite (2.68 mL, 32.7 mmol) was added, and the reaction mixture was stirred at RT for 70 minutes. The yellow precipitate was collected by vacuum filtration to provide the title compound (1.097 g, 6.39 mmol) as yellow solid. 1H-NMR (400 MHz, DMSO-d6): δ 7.88 (br. s, 1H), δ7.73 (s, 1H), δ7.39 (br. s, 1H), δ7.23 (s, 1H), δ7.06 (br. s, 2H). LC/MS (ESI+) m/z=172 (M+H)+.

reactant | 5-chloro-2-cyano-3-nitropyridine | 10.9 mmol, 1.274 mL | ClC=1C=C(C(=NC1)C#N)[N+](=O)[O-] | C6H2ClN3O2
reactant | ammonium hydroxide | 28.3 mmol, 3.94 mL | [OH-].[NH4+]
reactant | Sodium hydrosulfite | 32.7 mmol, 2.68 mL | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | water | 22 mL | O | H2O
product | 3-Amino-5-chloropicolinamide | 6.39 mmol, 1.097 g | NC=1C(=NC=C(C1)Cl)C(=O)N | C6H6ClN3O
